Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12].[O:1],4.1290207109
[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]\[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C@@:3]1([C:4]([H:5])([H:6])[H:7])[C:8][O:9][C:10]1([H:11])[H:12],-0.90965211378
[O:1][C:2][C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.92276719183
[H:12].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.01214480126
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:5],3.2391459569200003
[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.55713986326
[C:3]#[C:4][H:5].[O:1]=[O:2]>>[O:1][O:2][C:3]#[C:4][H:5],-2.3487693182
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],-1.4945301454100002
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],1.30176548357
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]#[C:7][H:8]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][H:8],-3.73870744262
[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.05531976197
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7],6.43819229
[H:1][O:2][C:3]=[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]#[C:5][O:6][H:7],3.50941998498
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4][H:5],2.59379833786
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:11][H:12].[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],8.542244311180001
[H:12].[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.99513995578
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.62963015165
[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1]/[C:2](=[C:3]([H:4])\[C:5]([H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],2.36391234999
[H:1][O:2][C:3]#[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][C:4]#[C:5],8.041569028989999
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:11][H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-4.69109667374
[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[H:9],-5.24816227445
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.56714754869
[H:1][C:2]1=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:12]([C:9]([H:10])[H:11])([H:13])[H:14],3.04847724097
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3],5.01778772227
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7],4.3974554358
[H:1].[O:2]=[C:3]([C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.4044650907499998
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.98620239693
[C:7]=[C:8]([H:9])[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12],-2.66713918745
